US07163940B2
In a similar manner to that in Example 28, from 3-bromo-7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridine (305 mg, 0.94 mmol) and 2-fluoropyridin-4-ylboronic acid (182 mg, 1.30 mmol) after heating to 100° C. for 1.5 hours was formed 2-(4-fluorophenyl)-3,7-bis(2-fluoropyridin-4-yl)pyrazolo[1,5-α]pyridine (90 mg, 24%). 1H NMR (CDCl3): δ 8.47 (d, 1H), 8.29 (d 1H), 7.89 (br d, 1H), 7.78 (d, 1H), 7.72 (s, 1H), 7.58 (dd, 2H), 7.44 (dd, 1H), 7.20 (br d, 1H), 7.15 (d, 1H), 7.13 (t, 2H), 7.05 (s, 1H); MS m/z 403 (M+1).

reactant | 3-bromo-7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridine | 0.94 mmol, 305 mg | BrC=1C(=NN2C1C=CC=C2Cl)C2=CC=C(C=C2)F | C13H7BrClFN2
reactant | 2-fluoropyridin-4-ylboronic acid | 1.30 mmol, 182 mg | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
product | 2-(4-fluorophenyl)-3,7-bis(2-fluoropyridin-4-yl)pyrazolo[1,5-α]pyridine | 90 mg, 24% | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2C2=CC(=NC=C2)F)=C1C1=CC(=NC=C1)F | C23H13F3N4
